US06448397B1
A mixture of (S)-(+)-1-Phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-ol (0.161 g, 0.534 mmol), bromoacetonitrile (0.074 mL, 1.07 mmol), potassium carbonate (0.148 g, 1.07 mmol), and DMF (2 mL) is stirred at 70° C. for 4 h. Additional bromoacetonitrile (0.074 mL) and potassium carbonate (0.074 g) are then added and the mixture is stirred overnight. Bromoacetonitrile and potassium carbonate (0.074 mL and 0.074 g, respectively) are then added and the temperature is increased to 90° C. The mixture is heated at that temperature for 5.5 h and then allowed to cool and stir overnight, after which the mixture is partitioned between ethyl acetate, aq. ammonium chloride, and brine. The organic layers are dried over magnesium sulfate, concentrated, and the residue is chromatographed on silica gel gel (40 mL) using first CH2Cl2/hexane (1:1) to elute unreacted starting material, and then ethyl acetate/CH2Cl2/hexane (5:45:50) to give 0.113 g of (S)-(+)-2-[(1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl)oxy]acetonitrile.

reactant | (S)-(+)-1-Phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-ol | 0.534 mmol, 0.161 g | C1(=CC=CC=C1)[C@H]1COC=2C=CC=C3C4=C(C=CC=C4N1C23)O | C20H15NO2
reactant | bromoacetonitrile | 1.07 mmol, 0.074 mL | BrCC#N | C2H2BrN
reactant | potassium carbonate | 1.07 mmol, 0.148 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetonitrile | 0.074 mL | BrCC#N | C2H2BrN
reactant | potassium carbonate | 0.074 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (S)-(+)-2-[(1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl)oxy]acetonitrile | 0.113 g | C1(=CC=CC=C1)[C@H]1COC=2C=CC=C3C=4C(=CC=CC4N1C23)OCC#N | C22H16N2O2
